US06916850B2
3-(4,5-Dihydro-1H-imidazol-2-ylsulfanyl)-2-oxo-propionic acid ethyl ester
A mixture of 2-imidazolidinethione (1.02 g, 10 mmol), ethyl 3-bromopyruvate (1.95 g, 10 mmol), potassium carbonate (1.38 g, 10 mmol), sodium iodide (10 mg), Adogen (200 mg) in N,N-dimethyl formamide (15 mL) was stirred at 20° C. for 15 hours under nitrogen. The reaction mixture was diluted with water and then extracted ethyl acetate. Organic phase was dried over sodium sulfate, evaporated, and chromatographed (silica gel, dichloromethane-methanol 9:1), giving the expected product, 3-(4,5-dihydro-1H-imidazol-2-ylsulfanyl)-2-oxo-propionic acid ethyl ester, as a brown solid (1.8 g, 83%). 1H-NMR (CDCl3, 300 MHz) δ (ppm): 4.36 (d, J=7.1 Hz, 2H), 4.25-4.00 (m, 3H), 3.57 (d, J=11.2 Hz, 1H), 3.50-3.35 (m 1H), 3.25-3.10 (m, 1H), 1.37 (t, J=7.1 Hz, 3H).

reactant | 2-imidazolidinethione | 10 mmol, 1.02 g | N1C(NCC1)=S | C3H6N2S
reactant | ethyl 3-bromopyruvate | 10 mmol, 1.95 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 10 mg | [I-].[Na+]
solvent | N,N-dimethyl formamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4,5-dihydro-1H-imidazol-2-ylsulfanyl)-2-oxo-propionic acid ethyl ester | C(C)OC(C(CSC=1NCCN1)=O)=O | C8H12N2O3S
